US08304419B2
Step D: 4-chloro-2-ethyl-1H-imidazole-5-carbaldehyde
A solution of (4-chloro-2-ethyl-1H-imidazol-5-yl)methanol (1.60 g, 10.0 mmol) and manganese dioxide (5.5 g, 63.3 mmol) in CH2Cl2 (30 mL) and 1,4-dioxane (15 mL) was heated under reflux for 6.5 h. The reaction mixture was cooled to RT, then filtered through Celite, which was washed thoroughly with CH2Cl2. The filtrate was concentrated and dried to provide the title compound (0.763 mg, 48%) as a pale yellow solid. 1H NMR (400 MHz, CDCl3) δ ppm 9.66 (s, 1H), 2.84 (q, 2H), 1.38 (t, 3 H).

reactant | (4-chloro-2-ethyl-1H-imidazol-5-yl)methanol | 10.0 mmol, 1.60 g | ClC=1N=C(NC1CO)CC | C6H9ClN2O
solvent | CH2Cl2 | 30 mL | C(Cl)Cl | CH2Cl2
solvent | 1,4-dioxane | 15 mL | O1CCOCC1 | C4H8O2
catalyst | manganese dioxide | 63.3 mmol, 5.5 g | [O-2].[O-2].[Mn+4]
product | 4-chloro-2-ethyl-1H-imidazole-5-carbaldehyde | 0.763 mg, 48% | ClC=1N=C(NC1C=O)CC | C6H7ClN2O
